US04146721
Following a procedure analogous to that set out in Example 49, 40 grams 1-phenyl-3-(2-furyl)-1,3-propanedione were alkylated by reaction with 36 grams bromoacetic acid-ethyl ester and 23 grams of a 20% suspension of sodium hydride in paraffin oil to form 3-benzoyl-3-(2-furoyl)-propionic acid-ethyl ester, which was further reacted with 28 grams phenylhydrazine in glacial acetic acid to form the respective pyrazol-4-acetic acid-ethyl esters, which without being separated, were saponified in accordance with a procedure analogous to that described in Example (1b).

reactant | 1-phenyl-3-(2-furyl)-1,3-propanedione | 40 grams | C1(=CC=CC=C1)C(CC(=O)C=1OC=CC1)=O | C13H10O3
reactant | bromoacetic acid-ethyl ester | 36 grams | C(C)OC(CBr)=O | C4H7BrO2
reactant | sodium hydride | [H-].[Na+]
product | 3-benzoyl-3-(2-furoyl)-propionic acid-ethyl ester | C(C)OC(CC(C(=O)C=1OC=CC1)C(C1=CC=CC=C1)=O)=O | C17H16O5
